US07776857B2
A RBF was charged with 4-(3-chlorophenyl)-2-ethyl-2-hydroxy-4-oxobutanoic acid (2.78 g, 10.8 mmol), hydrazine (0.510 ml, 16.2 mmol) and 11 mL of n-BuOH. A Dean-Stark apparatus fitted with a reflux condenser was attached, and the mixture was heated under nitrogen at 130° C. for 15 h. Upon cooling a precipitate formed, which was filtered, washed with cold EtOH, and dried. 6-(3-chlorophenyl)-4-ethylpyridazin-3(2H)-one was isolated as a white solid. MS m/z=235 [M+H]+. Calc'd for C12H11ClN2O: 234.68.

reactant | 4-(3-chlorophenyl)-2-ethyl-2-hydroxy-4-oxobutanoic acid | 10.8 mmol, 2.78 g | ClC=1C=C(C=CC1)C(CC(C(=O)O)(O)CC)=O | C12H13ClO4
reactant | hydrazine | 16.2 mmol, 0.510 ml | NN | H4N2
solvent | n-BuOH | 11 mL | CCCCO | C4H10O
product | 6-(3-chlorophenyl)-4-ethylpyridazin-3(2H)-one | ClC=1C=C(C=CC1)C=1C=C(C(NN1)=O)CC | C12H11ClN2O
